US04851410
90 g of 1-hydroxypyrazole-4-carboxylic acid (for preparation, see corresponding German Patent Application No. P 35 32 879.7) are suspended in 500 ml of methanol, and 10 ml of concentrated sulfuric acid are added. The mixture is then refluxed for 12 hours, the methanol is distilled off under reduced pressure, the solid residue is stirred in 400 ml of water, the solution is brought to pH 3 with sodium hydroxide solution, and the product is filtered off under suction and washed with water. The mother liquor is evaporated down, and a further crystalline fraction is obtained. The combined products are dried under reduced pressure to give 91 g (91% of theory) of methyl 1-hydroxypyrazole-4-carboxylate of melting point 175°.181° C. NMR (DMSO-D6): 8.35 s [1]; 7.82 s [1]; 3.80 s [3].

reactant | 1-hydroxypyrazole-4-carboxylic acid | 90 g | ON1N=CC(=C1)C(=O)O | C4H4N2O3
reactant | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 500 ml | CO | CH4O
product | methyl 1-hydroxypyrazole-4-carboxylate | 91 g, 91% | ON1N=CC(=C1)C(=O)OC | C5H6N2O3
